* Schematics Netlist *



R_R1         $N_0002 $N_0001  1  
L_L1         $N_0001 0  10m  
D_D3         $N_0003 $N_0004 D1N4151 
M_M2         $N_0007 $N_0006 $N_0005 $N_0005 IRFF110
C_C1         $N_0005 $N_0004  22n  
V_V1         $N_0002 0  
+PULSE -15 15 0 100n 100n 24.9u 50u
R_R4         0 $N_0005  100  
D_D1         $N_0008 $N_0004 D1N4151 
M_M1         $N_0006 $N_0008 $N_0003 $N_0003 IRFF110
R_R2         $N_0008 $N_0007  22  
R_R3         $N_0005 $N_0007  1k  
V_V2         $N_0009 0 50
M_M3         $N_0009 $N_0007 $N_0005 $N_0005 IRF225
D_D6         $N_0005 $N_0008 Dbreak 
D_D7         $N_0005 $N_0003 Dbreak 
Kn_K1         L_L1 L_L2     0.99
L_L2         $N_0008 $N_0003  10m  
R_R5         $N_0006 $N_0004  1k  
