* Schematics Netlist *



D_D1         $N_0001 $N_0002 D1N4151 
D_D3         $N_0003 $N_0002 D1N4151 
R_R5         $N_0004 $N_0002  1k  
M_M1         $N_0004 $N_0001 $N_0003 $N_0003 IRFF110
R_R2         $N_0001 $N_0005  22  
D_D6         $N_0006 $N_0001 Dbreak 
M_M3         $N_0007 $N_0005 $N_0006 $N_0006 IRF225
R_R3         $N_0006 $N_0005  1k  
M_M2         $N_0005 $N_0004 $N_0006 $N_0006 IRFF110
C_C1         $N_0006 $N_0002  22n  
D_D7         $N_0006 $N_0003 Dbreak 
R_R4         0 $N_0006  100  
V_V2         $N_0007 0 50
L_L2         $N_0001 $N_0003  10m  
Kn_K1         L_L1 L_L2     0.99
V_V1         $N_0008 0  
+PULSE -15 15 0 100n 100n 24.9u 50u
R_R1         $N_0008 $N_0009  1  
L_L1         $N_0009 0  10m  
